US20010047031A1
(RS)-4-{1-[4-(3-Benzyloxy-phenyl)-butyl]-pyrrolidine-3-sulfonyl}-phenol (88.4 mg, 0.2 mmol) and Pd/C (40 mg, 10% Pd on charcoal) in MeOH (5 ml) were refluxed for 2 hours under an atmospheric pressure of hydrogen. The reaction mixture was then cooled to room temperature, the catalyst was filtered and the filtrate was concentrated. The residue was chromatographed over silica gel (CH2Cl2-MeOH, 19:1) to provide (RS)-4-{1-[4-(3-hydroxy-phenyl)-butyl]-pyrrolidine-3-sulfonyl}-phenol (53 mg, 69%) as a light beige solid, MS: m/e=376.3 (M+H+).

reactant | (RS)-4-{1-[4-(3-Benzyloxy-phenyl)-butyl]-pyrrolidine-3-sulfonyl}-phenol | 0.2 mmol, 88.4 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCCCN1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | C27H31NO4S
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 5 ml | CO | CH4O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | (RS)-4-{1-[4-(3-hydroxy-phenyl)-butyl]-pyrrolidine-3-sulfonyl}-phenol | 53 mg, 69% | OC=1C=C(C=CC1)CCCCN1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | C20H25NO4S
